*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/oscillator_tb_lpe.spi
#else
.include ../../../work/xsch/oscillator_tb.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p
.param vdda = 1.8
.param AVDD = {vdda}


.param TAMB = 27
.temp {TAMB}

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD_1V8  VDD_1V8  VSS  dc 1.8

VPWR  PWRUP_1V8  VSS  pwl 0 0 {t_start} 0 {{t_start}-1n} {AVDD}
VPWRN  PWRUP_N_1V8  VSS  pwl 0 {AVDD} {t_start} {AVDD} {{t_start}-1n} {0}

*VREF  VREF  VSS  dc 1.22

*VBG  VBG  VSS  dc 0.7


*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.options savecurrents
.save all

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
load {cicname}.raw
set num_threads=16
set color0=white
set color1=black
unset askquit

.option savecurrents
save v(vref) i(IPTAT)

optran 0 0 0 1n 2u 0

tran 0.5n {t_end}
write {cicname}_tran.raw

echo 'Temp ; Freq' > {cicname}_oscillator.csv

set temp_stop = 125
set temp_step = 1
set temp_val = -40
while $temp_val le $temp_stop
	alterparam TAMB = $temp_val
	reset

	tran 0.5n 6u
	write {cicname}_temp_{$temp_val}.raw

	meas tran Tperiod  TRIG v(vout_osc) VAL=0.9 RISE=2  TARG v(vout_osc) VAL=0.9 RISE=3
	let Freq = 1/Tperiod
	echo Temp = $temp_val C  freq = $&freq Hz
	echo '$temp_val ; $&freq' >> {cicname}_oscillator.csv

	let temp_next = $temp_val + $temp_step
	set temp_val = "$&temp_next"
end

quit


.endc

.end
